US06350749B1
To a solution of 4-chloro-7-phenyl-5,6,7,8-tetrahydroquinolin-5-one (0.23 g) in methanol (20 ml) was added sodium methoxide (0.096 g), and the mixture was refluxed for 1 hour and cooled. The solvent was evaporated, and to the residue was added ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate-hexane to give crystals of 4-methoxy-7-phenyl-5,6,7,8-tetrahydroquinolin-5-one (0.21 g).

reactant | 4-chloro-7-phenyl-5,6,7,8-tetrahydroquinolin-5-one | 0.23 g | ClC1=CC=NC=2CC(CC(C12)=O)C1=CC=CC=C1 | C15H12ClNO
reactant | sodium methoxide | 0.096 g | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-methoxy-7-phenyl-5,6,7,8-tetrahydroquinolin-5-one | 0.21 g | COC1=CC=NC=2CC(CC(C12)=O)C1=CC=CC=C1 | C16H15NO2
